US04696941
(b) 1,8-Diacetoxy-10-isopentanoylanthrone
Using the same procedure as that described in Example 3, 5 g of 1,8-dihydroxy-10-isopentanoylanthrone obtained above was treated with 5 equivalents of acetic anhydride in 50 cm3 of anhydrous toluene in the presence of a trace of p-toluenesulfonic acid.

reactant | 1,8-dihydroxy-10-isopentanoylanthrone | 5 g | OC1=CC=CC=2C(C3=CC=CC(=C3C(C12)=O)O)C(CC(C)C)=O | C19H18O4
reactant | acetic anhydride | 5 equivalents | C(C)(=O)OC(C)=O | C4H6O3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | 50 cm3 | C1(=CC=CC=C1)C | C7H8
product | 1,8-Diacetoxy-10-isopentanoylanthrone | C(C)(=O)OC1=CC=CC=2C(C3=CC=CC(=C3C(C12)=O)OC(C)=O)C(CC(C)C)=O | C23H22O6
